US07601844B2
To a solution of (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride (111 mg, 0.296 mmol), 2-chloro-4,6-dimethoxy-1,3,5-triazine (57.1 mg, 0.325 mmol), formic acid (0.012 mL, 0.325 mmol) and NMM (0.068 mL, 0.62 mmol) CH2Cl2 (10 mL), was added DMAP (3.61 mg, 0.03 mmol). The mixture was stirred at rt for 3 h. The reaction was filtered and the filtrate was washed with Na2CO3, 0.5N HCl, and brine. The organic layer was dried over Na2SO4 and Concentrated to give N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)formamide (76 mg, 0.207 mmol, 70.0% yield).

reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | 0.296 mmol, 111 mg | Cl.N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.325 mmol, 57.1 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | formic acid | 0.325 mmol, 0.012 mL | C(=O)O | CH2O2
reactant | NMM | 0.62 mmol, 0.068 mL | CN1CCOCC1 | C5H11NO
catalyst | DMAP | 0.03 mmol, 3.61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)formamide | 0.207 mmol, 76 mg, 70.0% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC=O)=O)(C)C)O | C19H27ClN2O3
